US06255496B1
[2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]bromide
A mixture of 4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenol (1.64 g, 6.2 mmol), potassium carbonate (1.3 g, 9.3 mmol) and 1,2-dibromoethane (5 ml, 58 mmol) was stirred and heated under reflux (130° C.) for 26 h. After cooling to room temperature, the mixture was filtered and washed with ethyl actate. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate 20:1 to 4:1) to give the title compound (2.0 g, 85%) as a colorless liquid.

reactant | 4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenol | 6.2 mmol, 1.64 g | COC(CCC1=CC=C(C=C1)O)(C(F)(F)F)OC | C12H15F3O3
reactant | potassium carbonate | 9.3 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 58 mmol, 5 ml | BrCCBr | C2H4Br2
product | [2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]bromide | 2.0 g, 85% | COC(CCC1=CC=C(OCCBr)C=C1)(C(F)(F)F)OC | C14H18BrF3O3
